US08138197B2
Production of 1′-{[1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indol-6-yl]carbonyl}-6-[(1-methyl-1H-pyrazol-5-yl)amino]spiro[chroman-2,4′-piperidin]-4-one
Triethylamine and water (1.5 mL) were added to a DMF (6 mL) solution of 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid (348 mg), 6-[(1-methyl-1H-pyrazol-5-yl)amino]spiro[chroman-2,4′-piperidin)]one hydrochloride, WSC hydrochloride and HOBT, and stirred at 90° C. for 30 minutes. Water was added to it at room temperature to obtain a white precipitate. This was dried under reduced pressure, washed with a mixed solvent of methanol and diethyl ether, and again dried under reduced pressure to obtain the title compound as a colorless solid. 1H-NMR (400 MHz, DMSO-d6) δ: 7.92 (1H, s), 7.83 (2H, d, J=3.2 Hz), 7.64 (1H, d, J=3.2 Hz), 7.32 (1H, d, J=1.7 Hz), 7.17-7.12 (3H, m), 7.00 (1H, d, J=9.0 Hz), 5.90 (1H, d, J=1.7 Hz), 4.45-4.05 (1H, br m), 3.60 (3H, s), 3.60-3.53 (1H, m), 3.47-3.21 (3H, br m), 2.83 (2H, s), 2.14-1.70 (4H, br m), 1.14-0.98 (4H, m). MS [M+H]+=564.

reactant | 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid | 348 mg | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)O)C1=NN=NN1 | C13H11N5O2
reactant | 6-[(1-methyl-1H-pyrazol-5-yl)amino]spiro[chroman-2,4′-piperidin) | CN1N=CC=C1NC=1C=C2CCC3(CCNCC3)OC2=CC1 | C17H22N4O
reactant | hydrochloride | Cl | ClH
reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | Water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 1.5 mL | O | H2O
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | 1′-{[1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indol-6-yl]carbonyl}-6-[(1-methyl-1H-pyrazol-5-yl)amino]spiro[chroman-2,4′-piperidin]-4-one | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)NC2=CC=NN2C)C2=NN=NN2 | C30H29N9O3
